US06136810
3-(3-Chlorobenzoyl)-6-ethyl-2-pyridone (95.8 g, 366 mmol) was dissolved in 1,000 ml of dichloroethane, 56.4 ml (403 mmol) of triethylamine, 4.52 g (366 mmol) of 4-dimethylaminopyridine and 76.7 g (403 mmol) of p-toluenesulfonyl chloride were added thereto, followed by stirring at room temperature for 1 hour. The reaction solution was washed with water, 1 N hydrochloric acid-brine and dried over anhydrous magnesium sulfate. Magnesium sulfate was removed by filtration and then the resulting filtrate was concentrated under a reduced pressure. Thereafter, the resulting residue was recrystallized from ethyl acetate-hexane to give 139.90 g of 3-(3-chlorobenzoyl)-6-ethyl-2-pyridyl p-toluenesulfonate in the form of crystals. The yield was 91.9%.

reactant | 3-(3-Chlorobenzoyl)-6-ethyl-2-pyridone | 366 mmol, 95.8 g | ClC=1C=C(C(=O)C=2C(NC(=CC2)CC)=O)C=CC1 | C14H12ClNO2
reactant | triethylamine | 403 mmol, 56.4 ml | C(C)N(CC)CC | C6H15N
reactant | p-toluenesulfonyl chloride | 403 mmol, 76.7 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | dichloroethane | 1,000 ml | ClC(C)Cl | C2H4Cl2
catalyst | 4-dimethylaminopyridine | 366 mmol, 4.52 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 3-(3-chlorobenzoyl)-6-ethyl-2-pyridyl p-toluenesulfonate | 139.90 g, yield was 91.9% | C1(=CC=C(C=C1)S(=O)(=O)OC1=NC(=CC=C1C(C1=CC(=CC=C1)Cl)=O)CC)C | C21H18ClNO4S
